### PR TITLE
[Merged by Bors] - feat(Data/Rat/Defs): num_eq_zero_iff

### PR DESCRIPTION
**Pull request by pechersky**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Rat/Defs.lean [hunk 1]
```diff
@@ -76,6 +76,16 @@ theorem zero_mk (d) (h : d ≠ 0) (w) : mk' 0 d h w = 0 := by congr
 #align rat.zero_mk_nat Rat.zero_mkRat
 #align rat.zero_mk Rat.zero_divInt
 
+@[simp]
+lemma num_eq_zero_iff (q : ℚ) : q.num = 0 ↔ q = 0 := by
```
Comment (eric-wieser) [inline Mathlib/Data/Rat/Defs.lean:80]:
```suggestion
lemma num_eq_zero {q : ℚ} : q.num = 0 ↔ q = 0 := by
```
would match `Rat.cast_eq_zero`

File: Mathlib/Data/Rat/Defs.lean [hunk 2]
```diff
@@ -76,6 +76,16 @@ theorem zero_mk (d) (h : d ≠ 0) (w) : mk' 0 d h w = 0 := by congr
...
+  induction q
+  constructor
+  · rintro rfl
+    simp
+  · rw [←zero_mk 1 (by simp) (by simp)]
+    rintro ⟨⟩
+    simp
```
Comment (eric-wieser) [inline Mathlib/Data/Rat/Defs.lean:87]: a slight golf:
```suggestion
  constructor
  · rintro rfl
    exact zero_mk _ _ _
  · exact congr_arg num
```

**Comment by eric-wieser** [comment]
bors merge

Thanks!
